US09387204B2
Step 4: [4-(5-phenylimidazo[2,1-b][1,3]thiazol-6-yl)phenyl]methanol
0.12 g (0.36 mM) of methyl 4-(5-phenylimidazo[2,1-b][1,3]thiazol-6-yl)benzoate is dissolved in 8 mL of dry THF. To this is added lithium aluminum hydride (5 eq) at 0° C. The reaction mixture is brought to RT and stirred for 2 h. It is then quenched with sat. solution of sodium sulphate and filtered. The filtrate is evaporated and extracted in ethyl acetate. The organic layer is dried and concentrated to obtain the desired compound.

reactant | methyl 4-(5-phenylimidazo[2,1-b][1,3]thiazol-6-yl)benzoate | 0.36 mM, 0.12 g | C1(=CC=CC=C1)C1=C(N=C2SC=CN21)C2=CC=C(C(=O)OC)C=C2 | C19H14N2O2S
reactant | lithium aluminum hydride | 5 eq | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | [4-(5-phenylimidazo[2,1-b][1,3]thiazol-6-yl)phenyl]methanol | C1(=CC=CC=C1)C1=C(N=C2SC=CN21)C2=CC=C(C=C2)CO | C18H14N2OS
